US06020345
Preparation of (4-azidomethyl-4-fluoro-piperidin-1-yl)-(3-chloro-4-fluoro-phenyl)methanone (VI-1)
0.70 g of toluene-4-sulfonic acid 1-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl ester (1.57 mmol), 0.308 g of sodium azide (4.70 mmol) and 0.20 g of tetrabutylammonium azide (0.70 mmol) are mixed in 3.50 ml of dimethyl sulfoxide. The mixture is heated at 110° C. under a nitrogen atmosphere for 20 hours. The reaction mixture is poured into ice-cold water and then extracted with ethyl acetate. The organic phase is washed with water and then with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under vacuum. The title product is isolated by chromatography on a neutral alumina column (eluent: hexane/ethyl acetate; 70:30). 0.313 g of a yellow oil is obtained.

reactant | toluene-4-sulfonic acid 1-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl ester | 1.57 mmol, 0.70 g | ClC=1C=C(C(=O)N2CCC(CC2)(F)COS(=O)(=O)C2=CC=C(C=C2)C)C=CC1F | C20H20ClF2NO4S
reactant | sodium azide | 4.70 mmol, 0.308 g | [N-]=[N+]=[N-].[Na+]
reactant | tetrabutylammonium azide | 0.70 mmol, 0.20 g | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl sulfoxide | 3.50 ml | CS(=O)C | C2H6OS
product | (4-azidomethyl-4-fluoro-piperidin-1-yl)-(3-chloro-4-fluoro-phenyl)methanone | N(=[N+]=[N-])CC1(CCN(CC1)C(=O)C1=CC(=C(C=C1)F)Cl)F | C13H13ClF2N4O
